US07244725B2
Step 4 Preparation N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[(4S)-6-ethyl-3,4-dihydro-2H-chromen-4-yl]amino}-2-hydroxypropyl)acetamide
N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide (1.0 g, 1.9 mmol) and Pd(dppf)Cl2 (0.078 g, 0.1 mmol) was dissolved in 20 mL of degassed THF. To the mixture was added 10 mL of 2.0 M K3PO4 followed by the addition of Et3B (3.8 mL, 3.8 mmol, 1.0 M in THF) via syringe. The reaction mixture was heated to 65° C. under a nitrogen atmosphere. After 2.5 h the reaction was determined to be complete and diluted with EtOAc (100 mL) and washed with brine (3×30 mL). The organic layer was dried over Na2SO4 and conc. in vacuo to yield brown solid. The diastereomers of the title compound were separated by preparative chiral HPLC (Chiralpak AD, 20% IPA/80% heptane, 0.1% DEA). MS (ESI+) for C23H26F2N2O3 m/z 419 (M+H)+.

reactant | N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide | 1.9 mmol, 1.0 g | FC=1C=C(C[C@@H]([C@@H](CNC2CCOC3=CC=C(C=C23)I)O)NC(C)=O)C=C(C1)F | C21H23F2IN2O3
reactant | K3PO4 | 2.0 M, 10 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Et3B | 3.8 mmol, 1.0 M, 3.8 mL | B(CC)(CC)CC | C6H15B
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 0.078 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[(4S)-6-ethyl-3,4-dihydro-2H-chromen-4-yl]amino}-2-hydroxypropyl)acetamide | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)CC)O)NC(C)=O)C=C(C1)F | C23H28F2N2O3
